US04255182
Preparation of 2-acetamido-5-[N-(1-ethylpropyl)aminosulfonyl]-1,3,4-thiadiazole
1-Ethylpropylamine (0.1 mole) and water (50 ml) are charged into a glass reaction vessel fitted with a mechanical stirrer and thermometer. The solution is cooled to 20° C. and stirred while 2-acetamido-5-chlorosulfonyl-1,3,4-thiadiazole (0.1 mole) is added slowly while holding the reaction temperature between 0° C. and 20° C. At the conclusion of the addition, stirring is continued for a period of about 2 hours at room temperature. The reaction mixture is then neutralized with 6 N hydrochloric acid. Solids are filtered out, water washed and dried to yield the desired product 2-acetamido-5-[N-(1-ethylpropyl)aminosulfonyl]-1,3,4-thiadiazole.

reactant | 1-Ethylpropylamine | 0.1 mole | C(C)C(CC)N | C5H13N
reactant | 2-acetamido-5-chlorosulfonyl-1,3,4-thiadiazole | 0.1 mole | C(C)(=O)NC=1SC(=NN1)S(=O)(=O)Cl | C4H4ClN3O3S2
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 2-acetamido-5-[N-(1-ethylpropyl)aminosulfonyl]-1,3,4-thiadiazole | C(C)(=O)NC=1SC(=NN1)S(=O)(=O)NC(CC)CC | C9H16N4O3S2
